US07297704B2
2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid
2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid ethyl ester (34.5 g, 142 mol) was dissolved in 375 mL of THF. Lithium hydroxide hydrate (23.8 g, 566 mmol) was added. The mixture was stirred at room temperature 48 h, at which time TLC showed complete consumption of starting ester. The mixture was acidified with 1 N HCl and was extracted with ethyl acetate. The organic layer was washed with brine, then was dried over sodium sulfate, filtered, and concentrated in vacuo to afford 30.4 g (99%) of the title compound.

reactant | 2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid ethyl ester | 142 mol, 34.5 g | C(C)OC(=O)C1CCC=2NC3=CC=CC=C3C2C1 | C15H17NO2
reactant | Lithium hydroxide hydrate | 566 mmol, 23.8 g | O.[OH-].[Li+]
solvent | THF | 375 mL | C1CCOC1 | C4H8O
product | 2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 30.4 g, 99% | C1CC(CC=2C3=CC=CC=C3NC12)C(=O)O | C13H13NO2
